US08349885B2
7-Nitroindazole (1.60 g, 9.80 mmol) was dissolved in DMF (100 mL), and thereto potassium hydroxide (2.20 g, 39.20 mmol) and iodine (4.98 g, 19.61 mmol) were added in drops. The mixture was stirred for 2 hours, and diluted with 10% sodium bisulfite solution. The resulting solid was collected and dried to give 3-iodo-7-nitro-1H-indazole (2.50 g, Yield 88%).

reactant | 7-Nitroindazole | 9.80 mmol, 1.60 g | [N+](=O)([O-])C=1C=CC=C2C=NNC12 | C7H5N3O2
reactant | potassium hydroxide | 39.20 mmol, 2.20 g | [OH-].[K+]
reactant | iodine | 19.61 mmol, 4.98 g | II | I2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | sodium bisulfite | S([O-])(O)=O.[Na+]
product | 3-iodo-7-nitro-1H-indazole | 2.50 g, Yield 88% | IC1=NNC2=C(C=CC=C12)[N+](=O)[O-] | C7H4IN3O2
